US05633270
The procedure is similar to that described in Example 1, but starting with 1.18 g of benzyl (4R)-3-{3-[2-(4-tert-butoxycarbonyl-2-butyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoate (isomer A), 0.8 g of ammonium formate and 1.2 g of palladium on charcoal (10% Pd). 0.25 g of (4R) -3-{3- [2- (4-tert-butoxycarbonyl-2-butyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoic acid (isomer A) is thereby obtained in the form of an amorphous products [α]D25 =-35.4°±1.0° (C %=0.52; DMF).

reactant | benzyl (4R)-3-{3-[2-(4-tert-butoxycarbonyl-2-butyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoate | 1.18 g | C(C)(C)(C)OC(=O)[C@H]1N(C(SC1)CCCC)C(CNC(NC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1)=O)=O | C29H37N3O6S
reactant | ammonium formate | 0.8 g | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
solvent | DMF | CN(C)C=O | C3H7NO
product | (4R) -3-{3- [2- (4-tert-butoxycarbonyl-2-butyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoic acid | 0.25 g | C(C)(C)(C)OC(=O)[C@H]1N(C(SC1)CCCC)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C22H31N3O6S
